US08669234B2
(1-{2-[5-(7-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-9H-fluoren-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester:
Followed the procedure used to prepare compound (1-{3-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl -propyl)-carbamic acid methyl ester, except that 2-(5-{7-[2-(1-Boc-pyrrolidin-2-yl)-3H-imidazol-4-yl]-9H-fluoren-2-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester was used instead of 2-(5-{4′-[2-(1-Boc-pyrrolidin-3-yl)-3H-imidazol-4-yl]-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester. 1H-NMR (300 MHz, CD3OD) δ 8.03 (d, 2H), 7.96 (s, 2H), 7.88 (s, 2H), 7.77 (d, 2H), 5.26 (t, 2H), 4.24 (d, 2H), 4.20-4.05 (m, 4H), 3.95-3.80 (m, 2H), 3.75-3.60 (m, 6H), 2.65-2.50 (m, 2H), 2.40-2.00 (m, 8H), 1.05-0.90 (m, 12H); m/z 751.3 (M+H)+.

reactant | (1-{3-[5-(4′-{2-[1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl -propyl)-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1CC(CC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)=O | C40H50N8O6
reactant | 2-(5-{7-[2-(1-Boc-pyrrolidin-2-yl)-3H-imidazol-4-yl]-9H-fluoren-2-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=2CC3=CC(=CC=C3C2C=C1)C=1NC(=NC1)C1N(CCC1)C(=O)OC(C)(C)C | C37H44N6O4
product | (1-{2-[5-(7-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-9H-fluoren-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=2CC3=CC(=CC=C3C2C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C(C)C)NC(=O)OC)=O)=O | C41H50N8O6
